US06124462
The general procedure from Example 12 was followed using 4-chloroanisole (143 mg, 1.0 mmol) and 4-MeOC6H4B(OH)2 (228 mg, 1.5 mmol) with Pd2 (dba)3 (13.3 mg, 0.0145 mmol) and (Me3C)2PH(O) from Experiment 2 (9.6 mg, 0.058 mmol) and CsF (456 mg, 3.0 mmol) in 3.0 mL of 1,4-dioxane. After 24 h, the reaction mixture was chromatographed with 5% ethyl acetate/hexane to give 213 mg (99% yield) of 4-(4-methoxyphenyl)anisole. It was >95% pure by 1H NMR and GC/MS. 1H NMR (500 MHz, CDCl3): δ 7.38 (d, J=8.68 Hz, 4H), 6.86 (d, J=8.68 Hz, 4H), 3.74 (s, 6H) ppm. 13C NMR (125 MHz, CDCl3): δ 158.7, 133.5, 127.7, 114.2, 55.3 ppm.

reactant | 4-chloroanisole | 1.0 mmol, 143 mg | ClC1=CC=C(C=C1)OC | C7H7ClO
reactant | 4-MeOC6H4B(OH)2 | 1.5 mmol, 228 mg | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | CsF | 3.0 mmol, 456 mg | [F-].[Cs+]
solvent | 1,4-dioxane | 3.0 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2 (dba)3 | 0.0145 mmol, 13.3 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-(4-methoxyphenyl)anisole | 213 mg, 99% yield | COC1=CC=C(C=C1)C1=CC=C(C=C1)OC | C14H14O2
